data/oMe_Silver.jsonl
{"reaction_id": "NR-205_1-C","level": "easy","name": "Nierenstein reaction","reactants_smiles": ["C(=O)(Cl)(C)","C=[N+]=[N-]"],"products_smiles": ["C(=O)(CCl)(C)"],"conditions": "None","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])(Cl)(C[N+]#N)(C)","step_weight": 0,"rationale": "The carbonyl carbon of the acyl chloride is highly electrophilic due to the electron-withdrawing chloride, enabling nucleophilic attack by diazomethane's terminal carbon, which is nucleophilic from resonance with the adjacent diazonium group."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(CCl)(C)","step_weight": 0,"rationale": "The tetrahedral intermediate collapses as chloride, a good leaving group, departs, restoring the carbonyl and forming the α-chloromethyl ketone, favored by the stability of the carbonyl and relief of negative charge on oxygen."}],"description": "In the Nierenstein reaction, diazomethane attacks the electrophilic carbonyl carbon of an acyl chloride, forming a tetrahedral intermediate. Chloride elimination then yields the α-chloromethyl ketone, driven by the stability of the carbonyl and good leaving group ability of chloride."}
{"reaction_id": "NR-139_1-CC(C)=C_2-CCCC_3-CC(F)(F)F_4-C(F)(F)F","name": "Markó-Lam Deoxygenation","level": "medium","reactants_smiles": ["C(OC(=O)C(F)(F)F)(CC(C)=C)(CCCC)(CC(F)(F)F)"],"products_smiles": ["C(CC(C)=C)(CCCC)(CC(F)(F)F)"],"conditions": "SmI2, HMPA","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "C(O[C]([O][Sm](I)I)C(F)(F)F)(CC(C)=C)(CCCC)(CC(F)(F)F)","rationale": "SmI2 is a strong single-electron donor; coordination to the carbonyl oxygen and electron transfer generate a radical anion stabilized by resonance with the carbonyl group."},{"step": 2,"type": "elimination","subtype": "radical_elimination","intermediate_smiles": "[C](CC(C)=C)(CCCC)(CC(F)(F)F)","rationale": "The radical anion undergoes C–O bond cleavage because the alkoxy leaving group is stabilized by Sm(III) coordination, favoring radical elimination."},{"step": 3,"type": "substitution","subtype": "radical_substitution","intermediate_smiles": "C(CC(C)=C)(CCCC)(CC(F)(F)F)","rationale": "The carbon-centered radical abstracts a hydrogen atom from the solvent or SmI2–HMPA complex, driven by formation of a strong C–H bond and radical quenching."}],"description": "SmI2 mediates a single-electron reduction of the ester, generating a radical anion that fragments to release the alkoxy radical. Subsequent elimination yields a carbon-centered radical, which abstracts hydrogen to give the fully deoxygenated product under mild, reductive conditions."}
{"reaction_id": "NR-112_1-Br_2-c2ccccc2_3-O_4-c2ccccc2_5-CC","name": "Houben-Hoesch Reaction","level": "medium","reactants_smiles": ["c1c(O)c(Br)c(c2ccccc2)c(O)c1c2ccccc2","C(CC)#N"],"products_smiles": ["c1(C(=O)CC)c(O)c(Br)c(c2ccccc2)c(O)c1c2ccccc2"],"conditions": "i. ZnCl2, HCl ii. H2O","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(=N[Zn])CC)C(=[OH+])c(Br)c(c2ccccc2)c(O)c1c2ccccc2","rationale": "ZnCl2 coordinates to the nitrile nitrogen, increasing the electrophilicity of the carbon and enabling nucleophilic attack by the activated aromatic ring via resonance donation from the phenolic OH."},{"step": 2,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "c1(C(=[NH])CC)c(O)c(Br)c(c2ccccc2)c(O)c1c2ccccc2","rationale": "Proton elimination restores aromaticity, a thermodynamically favored process, stabilizing the intermediate through delocalization over the aromatic ring."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(C(=[NH2+])CC)c(O)c(Br)c(c2ccccc2)c(O)c1c2ccccc2","rationale": "Acidic conditions protonate the imine nitrogen, making it more susceptible to nucleophilic attack by water in the subsequent hydrolysis step."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1(C(=O)CC)c(O)c(Br)c(c2ccccc2)c(O)c1c2ccccc2","rationale": "Water attacks the protonated imine carbon, and subsequent rearrangement leads to C=O formation, driven by the stability of the aryl ketone product under acidic hydrolysis conditions."}],"description": "Under acidic ZnCl2 catalysis, the phenol activates towards electrophilic attack by a nitrilium ion derived from the nitrile. Subsequent proton transfers and hydrolysis yield the aryl ketone. ZnCl2 coordinates to oxygen/nitrogen, enhancing electrophilicity and stabilizing intermediates."}
